US04296120
N-Decyl-3-(2-Aminophenyl)propenamide
A stirred solution of 15.3 g. of N-decyl-3-(2-nitrophenyl)propenamide in 200 ml. of glacial acetic acid was heated to 85° C. on a steam bath, and then 12.9 g. of iron powder was added portionwise, during 25 minutes. The reaction temperature was kept between 85° and 95° C. during the addition. The reaction mixture was filtered hot, and the residue was washed with hot glacial acetic acid. The cooled, combined acetic acid solutions were evaporated in vacuo, and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed several times with water and then with saturated sodium chloride solution. The resulting solution was dried using sodium sulfate, and then it was evaporated in vacuo to give the crude title product.

reactant | N-decyl-3-(2-nitrophenyl)propenamide | C(CCCCCCCCC)NC(C=CC1=C(C=CC=C1)[N+](=O)[O-])=O | C19H28N2O3
catalyst | iron | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-Decyl-3-(2-Aminophenyl)propenamide | C(CCCCCCCCC)NC(C=CC1=C(C=CC=C1)N)=O | C19H30N2O
